* C:\Glade\glade5_win64\ECEN351\C5N_LTspice\FinalProject\registerFile_top.asc
XX1 A B C WE In1 clk_in vdd vss out registerfile
vss vss 0 0V
vdd vdd 0 3V

* block symbol definitions
.subckt registerfile addr0 addr1 addr2 regWE data clk pos neg out
Vpos neg 0 5V
Vneg pos 0 0V
Vaddr0 addr0 0 PULSE(0 3 20n 100p 100p 19.9n 40n)
Vaddr1 addr1 0 PULSE(0 3 40n 100p 100p 39.9n 80n)
Vaddr2 addr2 0 PULSE(0 3 80n 100p 100p 79.9n 160n)
XX1 addr0 addr1 addr2 N001 N003 N005 N007 N009 N011 N013 N015 regWE pos neg writedecoder
XX3 N002 N004 N006 N008 N010 N012 N014 N016 NC_01 NC_02 NC_03 NC_04 NC_05 NC_06 mux8to1
XX2 data clk N015 N013 N011 N009 N007 N005 N003 N001 N004 N006 N008 N010 N012 N014 N016 N002 NC_07 NC_08 registerblock
.include "C5N_models_Glade.txt"
.ends registerfile

.subckt writedecoder addr0 addr1 addr2 reg0_WE reg1_WE reg2_WE reg3_WE reg4_WE reg5_WE reg6_WE reg7_WE regWE pos neg
XX4 addr0 N002 N004 N005 pos neg and3_1x
XX5 N001 N002 N004 N003 pos neg and3_1x
XX6 N001 addr1 N004 N006 pos neg and3_1x
XX7 addr0 addr1 N004 N007 pos neg and3_1x
XX8 N001 N002 addr2 N008 pos neg and3_1x
XX9 addr0 N002 addr2 N009 pos neg and3_1x
XX10 N001 addr1 addr2 N010 pos neg and3_1x
XX11 addr0 addr1 addr2 N011 pos neg and3_1x
XX12 N003 regWE reg0_WE pos neg and2_1x
XX13 N005 regWE reg1_WE pos neg and2_1x
XX14 N006 regWE reg2_WE pos neg and2_1x
XX15 N007 regWE reg3_WE pos neg and2_1x
XX16 N008 regWE reg4_WE pos neg and2_1x
XX17 N009 regWE reg5_WE pos neg and2_1x
XX18 N010 regWE reg6_WE pos neg and2_1x
XX19 N011 regWE reg7_WE pos neg and2_1x
XX1 addr0 N001 pos neg inv_4x
XX2 addr1 N002 pos neg inv_4x
XX3 addr2 N004 pos neg inv_4x
.ends writedecoder

.subckt mux8to1 in0 in1 in2 in3 in4 in5 in6 in7 out pos neg sel2 sel1 sel0
XX1 in0 in1 in2 in3 sel1 sel0 N001 pos neg mux4to1_1x
XX2 in4 in5 in6 in7 sel1 sel0 N002 pos neg mux4to1_1x
XX3 N001 N002 sel2 out pos neg mux2to1_1x
.ends mux8to1

.subckt registerblock DataIn clk reg7_sel reg6_sel reg5_sel reg4_sel reg3_sel reg2_sel reg1_sel reg0_sel reg1_out reg2_out reg3_out reg4_out reg5_out reg6_out reg7_out reg0_out pos neg
XX1 DataIn reg0_sel clk NC_01 reg0_out pos neg register1bit
XX2 DataIn reg1_sel clk NC_02 reg1_out pos neg register1bit
XX3 DataIn reg2_sel clk NC_03 reg2_out pos neg register1bit
XX4 DataIn reg3_sel clk NC_04 reg3_out pos neg register1bit
XX5 DataIn reg4_sel clk NC_05 reg4_out pos neg register1bit
XX6 DataIn reg5_sel clk NC_06 reg5_out pos neg register1bit
XX7 DataIn reg6_sel clk NC_07 reg6_out pos neg register1bit
XX8 DataIn reg7_sel clk NC_08 reg7_out pos neg register1bit
.ends registerblock

.subckt and3_1x A B C Y vdd vss
M6 Y N001 vss vss C5NNMOS l=0.6u w=1.8u m=1
M5 Y N001 vdd vdd C5NPMOS l=0.6u w=3.6u m=1
M1 N001 A vdd vdd C5NPMOS l=0.6u w=3.6u m=1
M2 N001 B vdd vdd C5NPMOS l=0.6u w=3.6u m=1
M3 N001 A N002 vss C5NNMOS l=0.6u w=3.6u m=1
M4 N002 B N003 vss C5NNMOS l=0.6u w=3.6u m=1
M7 N003 C vss vss C5NNMOS l=0.6u w=3.6u m=1
M8 N001 C vdd vdd C5NPMOS l=0.6u w=3.6u m=1
.ends and3_1x

.subckt and2_1x A B Y vdd vss
M6 Y N001 vss vss C5NNMOS l=0.6u w=1.8u m=1
M5 Y N001 vdd vdd C5NPMOS l=0.6u w=3.6u m=1
M1 N001 A vdd vdd C5NPMOS l=0.6u w=3.6u m=1
M2 N001 B vdd vdd C5NPMOS l=0.6u w=3.6u m=1
M3 N001 A N002 vss C5NNMOS l=0.6u w=3.6u m=1
M4 N002 B vss vss C5NNMOS l=0.6u w=3.6u m=1
.ends and2_1x

.subckt inv_4x A Z vdd vss
M1 Z A vss vss C5NNMOS l=0.6u w=1.8u m=4
M2 Z A vdd vdd C5NPMOS l=0.6u w=3.6u m=4
.ends inv_4x

.subckt mux4to1_1x in0 in1 in2 in3 sel1 sel0 out vdd vss
M8 out moutb vss vss C5NNMOS l=0.6u w=1.8u m=1
M7 out moutb vdd vdd C5NPMOS l=0.6u w=3.6u m=1
M6 moutb mout vss vss C5NNMOS l=0.6u w=1.8u m=1
M5 moutb mout vdd vdd C5NPMOS l=0.6u w=3.6u m=1
M2 mout sel1b in01 vss C5NNMOS l=0.6u w=1.8u m=1
M1 mout sel1bb in01 vdd C5NPMOS l=0.6u w=3.6u m=1
M4 mout sel1bb in23 vss C5NNMOS l=0.6u w=1.8u m=1
M3 mout sel1b in23 vdd C5NPMOS l=0.6u w=3.6u m=1
M9 sel0bb sel0b vss vss C5NNMOS l=0.6u w=1.8u m=1
M10 sel0bb sel0b vdd vdd C5NPMOS l=0.6u w=3.6u m=1
M11 sel0b sel0 vss vss C5NNMOS l=0.6u w=1.8u m=1
M12 sel0b sel0 vdd vdd C5NPMOS l=0.6u w=3.6u m=1
M13 in01 sel0b in0 vss C5NNMOS l=0.6u w=1.8u m=1
M14 in01 sel0bb in0 vdd C5NPMOS l=0.6u w=3.6u m=1
M15 in01 sel0bb in1 vss C5NNMOS l=0.6u w=1.8u m=1
M16 in01 sel0b in1 vdd C5NPMOS l=0.6u w=3.6u m=1
M17 in23 sel0b in2 vss C5NNMOS l=0.6u w=1.8u m=1
M18 in23 sel0bb in2 vdd C5NPMOS l=0.6u w=3.6u m=1
M19 in23 sel0bb in3 vss C5NNMOS l=0.6u w=1.8u m=1
M20 in23 sel0b in3 vdd C5NPMOS l=0.6u w=3.6u m=1
M21 sel1bb sel1b vss vss C5NNMOS l=0.6u w=1.8u m=1
M22 sel1bb sel1b vdd vdd C5NPMOS l=0.6u w=3.6u m=1
M23 sel1b sel1 vss vss C5NNMOS l=0.6u w=1.8u m=1
M24 sel1b sel1 vdd vdd C5NPMOS l=0.6u w=3.6u m=1
.ends mux4to1_1x

.subckt mux2to1_1x in0 in1 sel out vdd vss
M8 out N002 vss vss C5NNMOS l=0.6u w=1.8u m=1
M7 out N002 vdd vdd C5NPMOS l=0.6u w=3.6u m=1
M6 N002 N001 vss vss C5NNMOS l=0.6u w=1.8u m=1
M5 N002 N001 vdd vdd C5NPMOS l=0.6u w=3.6u m=1
M2 N001 selb in0 vss C5NNMOS l=0.6u w=1.8u m=1
M1 N001 selbb in0 vdd C5NPMOS l=0.6u w=3.6u m=1
M4 N001 selbb in1 vss C5NNMOS l=0.6u w=1.8u m=1
M3 N001 selb in1 vdd C5NPMOS l=0.6u w=3.6u m=1
M9 selbb selb vss vss C5NNMOS l=0.6u w=1.8u m=1
M10 selbb selb vdd vdd C5NPMOS l=0.6u w=3.6u m=1
M11 selb sel vss vss C5NNMOS l=0.6u w=1.8u m=1
M12 selb sel vdd vdd C5NPMOS l=0.6u w=3.6u m=1
.ends mux2to1_1x

.subckt register1bit DataIn regSEL clk qn_out DataOut pos neg
XX1 N001 clk DataOut NC_01 pos neg d_flip_flop
XX9 DataOut DataIn regSEL N001 pos neg mux2to1_1x
.ends register1bit

.subckt d_flip_flop D_in clk Q_out Qn_out vdd vss
M8 Q_out Qn_out vss vss C5NNMOS l=0.6u w=1.8u m=1
M7 Q_out Qn_out vdd vdd C5NPMOS l=0.6u w=3.6u m=1
M6 Qn_out N002 vss vss C5NNMOS l=0.6u w=1.8u m=1
M5 Qn_out N002 vdd vdd C5NPMOS l=0.6u w=3.6u m=1
M9 clkbb clkb vss vss C5NNMOS l=0.6u w=1.8u m=1
M10 clkbb clkb vdd vdd C5NPMOS l=0.6u w=3.6u m=1
M11 clkb clk vss vss C5NNMOS l=0.6u w=1.8u m=1
M12 clkb clk vdd vdd C5NPMOS l=0.6u w=3.6u m=1
M13 N003 cklb D_in vss C5NNMOS l=0.6u w=1.8u m=1
M14 N003 clkbb D_in vdd C5NPMOS l=0.6u w=3.6u m=1
M15 N004 clkbb N003 vss C5NNMOS l=0.6u w=1.8u m=1
M16 N004 clkb N003 vdd C5NPMOS l=0.6u w=3.6u m=1
M21 N001 N003 vss vss C5NNMOS l=0.6u w=1.8u m=1
M22 N001 N003 vdd vdd C5NPMOS l=0.6u w=3.6u m=1
M23 N004 N001 vss vss C5NNMOS l=0.6u w=1.8u m=1
M24 N004 N001 vdd vdd C5NPMOS l=0.6u w=3.6u m=1
M1 N005 cklbb N001 vss C5NNMOS l=0.6u w=1.8u m=1
M2 N005 clkb N001 vdd C5NPMOS l=0.6u w=3.6u m=1
M3 N006 clkb N005 vss C5NNMOS l=0.6u w=1.8u m=1
M4 N006 clkbb N005 vdd C5NPMOS l=0.6u w=3.6u m=1
M25 N002 N005 vss vss C5NNMOS l=0.6u w=1.8u m=1
M26 N002 N005 vdd vdd C5NPMOS l=0.6u w=3.6u m=1
M27 N006 N002 vss vss C5NNMOS l=0.6u w=1.8u m=1
M28 N006 N002 vdd vdd C5NPMOS l=0.6u w=3.6u m=1
.ends d_flip_flop

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\HP\Documents\LTspiceXVII\lib\cmp\standard.mos
.backanno
.end
